US05304566
N-cyano-N-(2-chloro-5-pyridylmethyl)-N'-methylacetamidine
0.6 g of sodium hydride (purity 60%) was added to the solution of 1.3 g of N-cyano-N'-methylacetamidine in 20 ml of N,N-dimethylformamide at ice bath temperature. After stirring it at the same temperature for 1 hour, 2.2 g of 2-chloro-5-pyridylmethylchloride was added to the mixture, followed by stirring for 5 hours at room temperature. The reaction mixture was then poured into ice-water, extracted with ethyl acetate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was purified by column chromatography on silica gel to afford 1.5 g of compound No. 22 m.p. 101°-103° C.

reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | N-cyano-N'-methylacetamidine | 1.3 g | C(#N)NC(C)=NC | C4H7N3
reactant | 2-chloro-5-pyridylmethylchloride | 2.2 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-cyano-N-(2-chloro-5-pyridylmethyl)-N'-methylacetamidine | 1.5 g | C(#N)N(C(C)=NC)CC=1C=CC(=NC1)Cl | C10H11ClN4
